* Candidate 8-bit reference DAC: ideal resistors, SKY130 transmission gates.
.option scale=1u
.param mc_mm_switch=0 mc_pr_switch=0
.include "/home/mehtama1/eda-tools/pdks/sky130A/libs.ref/sky130_fd_pr/spice/sky130_fd_pr__nfet_01v8__tt.pm3.spice"
.include "/home/mehtama1/eda-tools/pdks/sky130A/libs.ref/sky130_fd_pr/spice/sky130_fd_pr__nfet_01v8__mismatch.corner.spice"
.include "/home/mehtama1/eda-tools/pdks/sky130A/libs.ref/sky130_fd_pr/spice/sky130_fd_pr__pfet_01v8__tt.corner.spice"
.include "/home/mehtama1/eda-tools/pdks/sky130A/libs.ref/sky130_fd_pr/spice/sky130_fd_pr__pfet_01v8__mismatch.corner.spice"
* SKY130 Spice File.
.option scale=1.0u
.include "/home/mehtama1/eda-tools/pdks/sky130A/libs.tech/ngspice/parameters/lod.spice"
.param
+ lv_dlc_rotweak = .00e-9
+ lvhvt_dlc_rotweak = .00e-9
+ lvt_dlc_rotweak = .00e-9
+ hv_dlc_rotweak = .00e-9
+ sky130_fd_pr__nfet_01v8__dlc_rotweak = lv_dlc_rotweak
+ sky130_fd_pr__esd_nfet_01v8__dlc_rotweak = lv_dlc_rotweak
+ sky130_fd_pr__nfet_01v8_lvt__dlc_rotweak = lvt_dlc_rotweak
+ sky130_fd_pr__pfet_01v8__dlc_rotweak = lv_dlc_rotweak
+ sky130_fd_pr__pfet_01v8_lvt__dlc_rotweak = lvt_dlc_rotweak
+ sky130_fd_pr__pfet_01v8_hvt__dlc_rotweak = lvhvt_dlc_rotweak
+ sky130_fd_pr__esd_nfet_g5v0d10v5__dlc_rotweak = hv_dlc_rotweak
+ sky130_fd_pr__esd_pfet_g5v0d10v5__dlc_rotweak = hv_dlc_rotweak
+ sky130_fd_pr__nfet_03v3_nvt__dlc_rotweak = hv_dlc_rotweak
+ sky130_fd_pr__nfet_05v0_nvt__dlc_rotweak = hv_dlc_rotweak
+ sky130_fd_pr__nfet_g5v0d10v5__dlc_rotweak = hv_dlc_rotweak
+ sky130_fd_pr__pfet_g5v0d10v5__dlc_rotweak = hv_dlc_rotweak
+ sky130_fd_pr__pfet_g5v0d16v0__dlc_rotweak = hv_dlc_rotweak
+ sky130_fd_pr__special_nfet_pass__dlc_rotweak = lv_dlc_rotweak
+ sky130_fd_pr__special_nfet_pass_lowleakage__dlc_rotweak = lv_dlc_rotweak
+ sky130_fd_pr__special_nfet_pass_flash__dlc_rotweak = hv_dlc_rotweak
+ sky130_fd_pr__special_nfet_latch__dlc_rotweak = lv_dlc_rotweak
+ sky130_fd_pr__special_nfet_latch_lowleakage__dlc_rotweak = lv_dlc_rotweak
+ sky130_fd_pr__special_pfet_latch__dlc_rotweak = lv_dlc_rotweak
+ sky130_fd_pr__special_pfet_latch_lowleakage__dlc_rotweak = lv_dlc_rotweak
+ sky130_fd_bs_flash__special_sonosfet_star__dlc_rotweak = hv_dlc_rotweak
+ sky130_fd_bs_flash__special_sonosfet_original__dlc_rotweak = hv_dlc_rotweak
+ sonos_eeol_dlc_rotweak = hv_dlc_rotweak
+ sonos_peol_dlc_rotweak = hv_dlc_rotweak

.temp 27
VDD vdd 0 1.8
VREF ref 0 1.2
VB0 b0 0 PWL(0 0 2e-08 0 2.01e-08 1.8 1.7e-07 1.8 1.701e-07 1.8 3.2e-07 1.8 3.201e-07 1.8 4.7e-07 1.8 4.701e-07 1.8 6.2e-07 1.8 6.201e-07 1.8 7.7e-07 1.8 7.701e-07 0 9.2e-07 0 9.201e-07 1.8 1.07e-06 1.8 1.0701e-06 1.8 1.22e-06 1.8 1.2201e-06 0 1.37e-06 0 1.3701e-06 1.8 1.52e-06 1.8 1.5201e-06 0 1.67e-06 0 1.6701e-06 0 1.82e-06 0 1.8201e-06 0 1.97e-06 0 1.9701e-06 0 2.12e-06 0 2.1201e-06 0 2.27e-06 0 2.2701e-06 1.8 2.42e-06 1.8 2.4201e-06 1.8 2.57e-06 1.8 2.5701e-06 0 2.72e-06 0 2.7201e-06 1.8 2.87e-06 1.8 2.8701e-06 1.8 3.02e-06 1.8 3.0201e-06 1.8 3.17e-06 1.8 3.1701e-06 1.8 3.32e-06 1.8 3.3201e-06 1.8 3.47e-06 1.8 3.4701e-06 0 3.62e-06 0 3.6201e-06 1.8 3.77e-06 1.8 3.7701e-06 1.8 3.92e-06 1.8 3.9201e-06 0 4.07e-06 0 4.0701e-06 1.8 4.22e-06 1.8 4.2201e-06 0 4.37e-06 0 4.3701e-06 0 4.52e-06 0 4.5201e-06 0 4.67e-06 0 4.6701e-06 0 4.82e-06 0 4.8201e-06 0 4.97e-06 0 4.9701e-06 1.8 5.12e-06 1.8 5.1201e-06 1.8 5.27e-06 1.8 5.2701e-06 0 5.42e-06 0)
VB0bar b0bar 0 PWL(0 1.8 2e-08 1.8 2.01e-08 0 1.7e-07 0 1.701e-07 0 3.2e-07 0 3.201e-07 0 4.7e-07 0 4.701e-07 0 6.2e-07 0 6.201e-07 0 7.7e-07 0 7.701e-07 1.8 9.2e-07 1.8 9.201e-07 0 1.07e-06 0 1.0701e-06 0 1.22e-06 0 1.2201e-06 1.8 1.37e-06 1.8 1.3701e-06 0 1.52e-06 0 1.5201e-06 1.8 1.67e-06 1.8 1.6701e-06 1.8 1.82e-06 1.8 1.8201e-06 1.8 1.97e-06 1.8 1.9701e-06 1.8 2.12e-06 1.8 2.1201e-06 1.8 2.27e-06 1.8 2.2701e-06 0 2.42e-06 0 2.4201e-06 0 2.57e-06 0 2.5701e-06 1.8 2.72e-06 1.8 2.7201e-06 0 2.87e-06 0 2.8701e-06 0 3.02e-06 0 3.0201e-06 0 3.17e-06 0 3.1701e-06 0 3.32e-06 0 3.3201e-06 0 3.47e-06 0 3.4701e-06 1.8 3.62e-06 1.8 3.6201e-06 0 3.77e-06 0 3.7701e-06 0 3.92e-06 0 3.9201e-06 1.8 4.07e-06 1.8 4.0701e-06 0 4.22e-06 0 4.2201e-06 1.8 4.37e-06 1.8 4.3701e-06 1.8 4.52e-06 1.8 4.5201e-06 1.8 4.67e-06 1.8 4.6701e-06 1.8 4.82e-06 1.8 4.8201e-06 1.8 4.97e-06 1.8 4.9701e-06 0 5.12e-06 0 5.1201e-06 0 5.27e-06 0 5.2701e-06 1.8 5.42e-06 1.8)
X0hn bit0 b0 ref 0 sky130_fd_pr__nfet_01v8 w=32 l=0.15
X0hp bit0 b0bar ref vdd sky130_fd_pr__pfet_01v8 w=64 l=0.15
X0ln bit0 b0bar 0 0 sky130_fd_pr__nfet_01v8 w=32 l=0.15
X0lp bit0 b0 0 vdd sky130_fd_pr__pfet_01v8 w=64 l=0.15
Rbranch0 n0 bit0 20000
Rseries0 n0 n1 10000
VB1 b1 0 PWL(0 0 2e-08 0 2.01e-08 0 1.7e-07 0 1.701e-07 0 3.2e-07 0 3.201e-07 0 4.7e-07 0 4.701e-07 0 6.2e-07 0 6.201e-07 0 7.7e-07 0 7.701e-07 1.8 9.2e-07 1.8 9.201e-07 0 1.07e-06 0 1.0701e-06 0 1.22e-06 0 1.2201e-06 1.8 1.37e-06 1.8 1.3701e-06 0 1.52e-06 0 1.5201e-06 1.8 1.67e-06 1.8 1.6701e-06 1.8 1.82e-06 1.8 1.8201e-06 1.8 1.97e-06 1.8 1.9701e-06 1.8 2.12e-06 1.8 2.1201e-06 1.8 2.27e-06 1.8 2.2701e-06 0 2.42e-06 0 2.4201e-06 0 2.57e-06 0 2.5701e-06 0 2.72e-06 0 2.7201e-06 0 2.87e-06 0 2.8701e-06 0 3.02e-06 0 3.0201e-06 0 3.17e-06 0 3.1701e-06 0 3.32e-06 0 3.3201e-06 0 3.47e-06 0 3.4701e-06 1.8 3.62e-06 1.8 3.6201e-06 0 3.77e-06 0 3.7701e-06 0 3.92e-06 0 3.9201e-06 1.8 4.07e-06 1.8 4.0701e-06 0 4.22e-06 0 4.2201e-06 1.8 4.37e-06 1.8 4.3701e-06 1.8 4.52e-06 1.8 4.5201e-06 1.8 4.67e-06 1.8 4.6701e-06 1.8 4.82e-06 1.8 4.8201e-06 1.8 4.97e-06 1.8 4.9701e-06 0 5.12e-06 0 5.1201e-06 0 5.27e-06 0 5.2701e-06 0 5.42e-06 0)
VB1bar b1bar 0 PWL(0 1.8 2e-08 1.8 2.01e-08 1.8 1.7e-07 1.8 1.701e-07 1.8 3.2e-07 1.8 3.201e-07 1.8 4.7e-07 1.8 4.701e-07 1.8 6.2e-07 1.8 6.201e-07 1.8 7.7e-07 1.8 7.701e-07 0 9.2e-07 0 9.201e-07 1.8 1.07e-06 1.8 1.0701e-06 1.8 1.22e-06 1.8 1.2201e-06 0 1.37e-06 0 1.3701e-06 1.8 1.52e-06 1.8 1.5201e-06 0 1.67e-06 0 1.6701e-06 0 1.82e-06 0 1.8201e-06 0 1.97e-06 0 1.9701e-06 0 2.12e-06 0 2.1201e-06 0 2.27e-06 0 2.2701e-06 1.8 2.42e-06 1.8 2.4201e-06 1.8 2.57e-06 1.8 2.5701e-06 1.8 2.72e-06 1.8 2.7201e-06 1.8 2.87e-06 1.8 2.8701e-06 1.8 3.02e-06 1.8 3.0201e-06 1.8 3.17e-06 1.8 3.1701e-06 1.8 3.32e-06 1.8 3.3201e-06 1.8 3.47e-06 1.8 3.4701e-06 0 3.62e-06 0 3.6201e-06 1.8 3.77e-06 1.8 3.7701e-06 1.8 3.92e-06 1.8 3.9201e-06 0 4.07e-06 0 4.0701e-06 1.8 4.22e-06 1.8 4.2201e-06 0 4.37e-06 0 4.3701e-06 0 4.52e-06 0 4.5201e-06 0 4.67e-06 0 4.6701e-06 0 4.82e-06 0 4.8201e-06 0 4.97e-06 0 4.9701e-06 1.8 5.12e-06 1.8 5.1201e-06 1.8 5.27e-06 1.8 5.2701e-06 1.8 5.42e-06 1.8)
X1hn bit1 b1 ref 0 sky130_fd_pr__nfet_01v8 w=32 l=0.15
X1hp bit1 b1bar ref vdd sky130_fd_pr__pfet_01v8 w=64 l=0.15
X1ln bit1 b1bar 0 0 sky130_fd_pr__nfet_01v8 w=32 l=0.15
X1lp bit1 b1 0 vdd sky130_fd_pr__pfet_01v8 w=64 l=0.15
Rbranch1 n1 bit1 20000
Rseries1 n1 n2 10000
VB2 b2 0 PWL(0 1.8 2e-08 1.8 2.01e-08 0 1.7e-07 0 1.701e-07 0 3.2e-07 0 3.201e-07 0 4.7e-07 0 4.701e-07 0 6.2e-07 0 6.201e-07 0 7.7e-07 0 7.701e-07 1.8 9.2e-07 1.8 9.201e-07 0 1.07e-06 0 1.0701e-06 1.8 1.22e-06 1.8 1.2201e-06 0 1.37e-06 0 1.3701e-06 0 1.52e-06 0 1.5201e-06 1.8 1.67e-06 1.8 1.6701e-06 1.8 1.82e-06 1.8 1.8201e-06 1.8 1.97e-06 1.8 1.9701e-06 0 2.12e-06 0 2.1201e-06 0 2.27e-06 0 2.2701e-06 1.8 2.42e-06 1.8 2.4201e-06 1.8 2.57e-06 1.8 2.5701e-06 1.8 2.72e-06 1.8 2.7201e-06 0 2.87e-06 0 2.8701e-06 0 3.02e-06 0 3.0201e-06 0 3.17e-06 0 3.1701e-06 0 3.32e-06 0 3.3201e-06 0 3.47e-06 0 3.4701e-06 1.8 3.62e-06 1.8 3.6201e-06 0 3.77e-06 0 3.7701e-06 1.8 3.92e-06 1.8 3.9201e-06 0 4.07e-06 0 4.0701e-06 0 4.22e-06 0 4.2201e-06 1.8 4.37e-06 1.8 4.3701e-06 1.8 4.52e-06 1.8 4.5201e-06 1.8 4.67e-06 1.8 4.6701e-06 0 4.82e-06 0 4.8201e-06 0 4.97e-06 0 4.9701e-06 1.8 5.12e-06 1.8 5.1201e-06 1.8 5.27e-06 1.8 5.2701e-06 1.8 5.42e-06 1.8)
VB2bar b2bar 0 PWL(0 0 2e-08 0 2.01e-08 1.8 1.7e-07 1.8 1.701e-07 1.8 3.2e-07 1.8 3.201e-07 1.8 4.7e-07 1.8 4.701e-07 1.8 6.2e-07 1.8 6.201e-07 1.8 7.7e-07 1.8 7.701e-07 0 9.2e-07 0 9.201e-07 1.8 1.07e-06 1.8 1.0701e-06 0 1.22e-06 0 1.2201e-06 1.8 1.37e-06 1.8 1.3701e-06 1.8 1.52e-06 1.8 1.5201e-06 0 1.67e-06 0 1.6701e-06 0 1.82e-06 0 1.8201e-06 0 1.97e-06 0 1.9701e-06 1.8 2.12e-06 1.8 2.1201e-06 1.8 2.27e-06 1.8 2.2701e-06 0 2.42e-06 0 2.4201e-06 0 2.57e-06 0 2.5701e-06 0 2.72e-06 0 2.7201e-06 1.8 2.87e-06 1.8 2.8701e-06 1.8 3.02e-06 1.8 3.0201e-06 1.8 3.17e-06 1.8 3.1701e-06 1.8 3.32e-06 1.8 3.3201e-06 1.8 3.47e-06 1.8 3.4701e-06 0 3.62e-06 0 3.6201e-06 1.8 3.77e-06 1.8 3.7701e-06 0 3.92e-06 0 3.9201e-06 1.8 4.07e-06 1.8 4.0701e-06 1.8 4.22e-06 1.8 4.2201e-06 0 4.37e-06 0 4.3701e-06 0 4.52e-06 0 4.5201e-06 0 4.67e-06 0 4.6701e-06 1.8 4.82e-06 1.8 4.8201e-06 1.8 4.97e-06 1.8 4.9701e-06 0 5.12e-06 0 5.1201e-06 0 5.27e-06 0 5.2701e-06 0 5.42e-06 0)
X2hn bit2 b2 ref 0 sky130_fd_pr__nfet_01v8 w=32 l=0.15
X2hp bit2 b2bar ref vdd sky130_fd_pr__pfet_01v8 w=64 l=0.15
X2ln bit2 b2bar 0 0 sky130_fd_pr__nfet_01v8 w=32 l=0.15
X2lp bit2 b2 0 vdd sky130_fd_pr__pfet_01v8 w=64 l=0.15
Rbranch2 n2 bit2 20000
Rseries2 n2 n3 10000
VB3 b3 0 PWL(0 1.8 2e-08 1.8 2.01e-08 1.8 1.7e-07 1.8 1.701e-07 1.8 3.2e-07 1.8 3.201e-07 1.8 4.7e-07 1.8 4.701e-07 1.8 6.2e-07 1.8 6.201e-07 1.8 7.7e-07 1.8 7.701e-07 0 9.2e-07 0 9.201e-07 1.8 1.07e-06 1.8 1.0701e-06 0 1.22e-06 0 1.2201e-06 0 1.37e-06 0 1.3701e-06 1.8 1.52e-06 1.8 1.5201e-06 0 1.67e-06 0 1.6701e-06 0 1.82e-06 0 1.8201e-06 1.8 1.97e-06 1.8 1.9701e-06 1.8 2.12e-06 1.8 2.1201e-06 0 2.27e-06 0 2.2701e-06 0 2.42e-06 0 2.4201e-06 0 2.57e-06 0 2.5701e-06 1.8 2.72e-06 1.8 2.7201e-06 1.8 2.87e-06 1.8 2.8701e-06 1.8 3.02e-06 1.8 3.0201e-06 1.8 3.17e-06 1.8 3.1701e-06 1.8 3.32e-06 1.8 3.3201e-06 1.8 3.47e-06 1.8 3.4701e-06 0 3.62e-06 0 3.6201e-06 1.8 3.77e-06 1.8 3.7701e-06 0 3.92e-06 0 3.9201e-06 0 4.07e-06 0 4.0701e-06 1.8 4.22e-06 1.8 4.2201e-06 0 4.37e-06 0 4.3701e-06 0 4.52e-06 0 4.5201e-06 1.8 4.67e-06 1.8 4.6701e-06 1.8 4.82e-06 1.8 4.8201e-06 0 4.97e-06 0 4.9701e-06 0 5.12e-06 0 5.1201e-06 0 5.27e-06 0 5.2701e-06 1.8 5.42e-06 1.8)
VB3bar b3bar 0 PWL(0 0 2e-08 0 2.01e-08 0 1.7e-07 0 1.701e-07 0 3.2e-07 0 3.201e-07 0 4.7e-07 0 4.701e-07 0 6.2e-07 0 6.201e-07 0 7.7e-07 0 7.701e-07 1.8 9.2e-07 1.8 9.201e-07 0 1.07e-06 0 1.0701e-06 1.8 1.22e-06 1.8 1.2201e-06 1.8 1.37e-06 1.8 1.3701e-06 0 1.52e-06 0 1.5201e-06 1.8 1.67e-06 1.8 1.6701e-06 1.8 1.82e-06 1.8 1.8201e-06 0 1.97e-06 0 1.9701e-06 0 2.12e-06 0 2.1201e-06 1.8 2.27e-06 1.8 2.2701e-06 1.8 2.42e-06 1.8 2.4201e-06 1.8 2.57e-06 1.8 2.5701e-06 0 2.72e-06 0 2.7201e-06 0 2.87e-06 0 2.8701e-06 0 3.02e-06 0 3.0201e-06 0 3.17e-06 0 3.1701e-06 0 3.32e-06 0 3.3201e-06 0 3.47e-06 0 3.4701e-06 1.8 3.62e-06 1.8 3.6201e-06 0 3.77e-06 0 3.7701e-06 1.8 3.92e-06 1.8 3.9201e-06 1.8 4.07e-06 1.8 4.0701e-06 0 4.22e-06 0 4.2201e-06 1.8 4.37e-06 1.8 4.3701e-06 1.8 4.52e-06 1.8 4.5201e-06 0 4.67e-06 0 4.6701e-06 0 4.82e-06 0 4.8201e-06 1.8 4.97e-06 1.8 4.9701e-06 1.8 5.12e-06 1.8 5.1201e-06 1.8 5.27e-06 1.8 5.2701e-06 0 5.42e-06 0)
X3hn bit3 b3 ref 0 sky130_fd_pr__nfet_01v8 w=32 l=0.15
X3hp bit3 b3bar ref vdd sky130_fd_pr__pfet_01v8 w=64 l=0.15
X3ln bit3 b3bar 0 0 sky130_fd_pr__nfet_01v8 w=32 l=0.15
X3lp bit3 b3 0 vdd sky130_fd_pr__pfet_01v8 w=64 l=0.15
Rbranch3 n3 bit3 20000
Rseries3 n3 n4 10000
VB4 b4 0 PWL(0 0 2e-08 0 2.01e-08 0 1.7e-07 0 1.701e-07 1.8 3.2e-07 1.8 3.201e-07 0 4.7e-07 0 4.701e-07 0 6.2e-07 0 6.201e-07 0 7.7e-07 0 7.701e-07 1.8 9.2e-07 1.8 9.201e-07 1.8 1.07e-06 1.8 1.0701e-06 0 1.22e-06 0 1.2201e-06 0 1.37e-06 0 1.3701e-06 1.8 1.52e-06 1.8 1.5201e-06 1.8 1.67e-06 1.8 1.6701e-06 0 1.82e-06 0 1.8201e-06 1.8 1.97e-06 1.8 1.9701e-06 1.8 2.12e-06 1.8 2.1201e-06 0 2.27e-06 0 2.2701e-06 0 2.42e-06 0 2.4201e-06 1.8 2.57e-06 1.8 2.5701e-06 0 2.72e-06 0 2.7201e-06 0 2.87e-06 0 2.8701e-06 1.8 3.02e-06 1.8 3.0201e-06 0 3.17e-06 0 3.1701e-06 0 3.32e-06 0 3.3201e-06 0 3.47e-06 0 3.4701e-06 1.8 3.62e-06 1.8 3.6201e-06 1.8 3.77e-06 1.8 3.7701e-06 0 3.92e-06 0 3.9201e-06 0 4.07e-06 0 4.0701e-06 1.8 4.22e-06 1.8 4.2201e-06 1.8 4.37e-06 1.8 4.3701e-06 0 4.52e-06 0 4.5201e-06 1.8 4.67e-06 1.8 4.6701e-06 1.8 4.82e-06 1.8 4.8201e-06 0 4.97e-06 0 4.9701e-06 0 5.12e-06 0 5.1201e-06 1.8 5.27e-06 1.8 5.2701e-06 0 5.42e-06 0)
VB4bar b4bar 0 PWL(0 1.8 2e-08 1.8 2.01e-08 1.8 1.7e-07 1.8 1.701e-07 0 3.2e-07 0 3.201e-07 1.8 4.7e-07 1.8 4.701e-07 1.8 6.2e-07 1.8 6.201e-07 1.8 7.7e-07 1.8 7.701e-07 0 9.2e-07 0 9.201e-07 0 1.07e-06 0 1.0701e-06 1.8 1.22e-06 1.8 1.2201e-06 1.8 1.37e-06 1.8 1.3701e-06 0 1.52e-06 0 1.5201e-06 0 1.67e-06 0 1.6701e-06 1.8 1.82e-06 1.8 1.8201e-06 0 1.97e-06 0 1.9701e-06 0 2.12e-06 0 2.1201e-06 1.8 2.27e-06 1.8 2.2701e-06 1.8 2.42e-06 1.8 2.4201e-06 0 2.57e-06 0 2.5701e-06 1.8 2.72e-06 1.8 2.7201e-06 1.8 2.87e-06 1.8 2.8701e-06 0 3.02e-06 0 3.0201e-06 1.8 3.17e-06 1.8 3.1701e-06 1.8 3.32e-06 1.8 3.3201e-06 1.8 3.47e-06 1.8 3.4701e-06 0 3.62e-06 0 3.6201e-06 0 3.77e-06 0 3.7701e-06 1.8 3.92e-06 1.8 3.9201e-06 1.8 4.07e-06 1.8 4.0701e-06 0 4.22e-06 0 4.2201e-06 0 4.37e-06 0 4.3701e-06 1.8 4.52e-06 1.8 4.5201e-06 0 4.67e-06 0 4.6701e-06 0 4.82e-06 0 4.8201e-06 1.8 4.97e-06 1.8 4.9701e-06 1.8 5.12e-06 1.8 5.1201e-06 0 5.27e-06 0 5.2701e-06 1.8 5.42e-06 1.8)
X4hn bit4 b4 ref 0 sky130_fd_pr__nfet_01v8 w=32 l=0.15
X4hp bit4 b4bar ref vdd sky130_fd_pr__pfet_01v8 w=64 l=0.15
X4ln bit4 b4bar 0 0 sky130_fd_pr__nfet_01v8 w=32 l=0.15
X4lp bit4 b4 0 vdd sky130_fd_pr__pfet_01v8 w=64 l=0.15
Rbranch4 n4 bit4 20000
Rseries4 n4 n5 10000
VB5 b5 0 PWL(0 0 2e-08 0 2.01e-08 1.8 1.7e-07 1.8 1.701e-07 0 3.2e-07 0 3.201e-07 1.8 4.7e-07 1.8 4.701e-07 0 6.2e-07 0 6.201e-07 1.8 7.7e-07 1.8 7.701e-07 0 9.2e-07 0 9.201e-07 1.8 1.07e-06 1.8 1.0701e-06 1.8 1.22e-06 1.8 1.2201e-06 0 1.37e-06 0 1.3701e-06 1.8 1.52e-06 1.8 1.5201e-06 1.8 1.67e-06 1.8 1.6701e-06 0 1.82e-06 0 1.8201e-06 0 1.97e-06 0 1.9701e-06 0 2.12e-06 0 2.1201e-06 0 2.27e-06 0 2.2701e-06 1.8 2.42e-06 1.8 2.4201e-06 0 2.57e-06 0 2.5701e-06 0 2.72e-06 0 2.7201e-06 1.8 2.87e-06 1.8 2.8701e-06 0 3.02e-06 0 3.0201e-06 1.8 3.17e-06 1.8 3.1701e-06 0 3.32e-06 0 3.3201e-06 1.8 3.47e-06 1.8 3.4701e-06 0 3.62e-06 0 3.6201e-06 1.8 3.77e-06 1.8 3.7701e-06 1.8 3.92e-06 1.8 3.9201e-06 0 4.07e-06 0 4.0701e-06 1.8 4.22e-06 1.8 4.2201e-06 1.8 4.37e-06 1.8 4.3701e-06 0 4.52e-06 0 4.5201e-06 0 4.67e-06 0 4.6701e-06 0 4.82e-06 0 4.8201e-06 0 4.97e-06 0 4.9701e-06 1.8 5.12e-06 1.8 5.1201e-06 0 5.27e-06 0 5.2701e-06 0 5.42e-06 0)
VB5bar b5bar 0 PWL(0 1.8 2e-08 1.8 2.01e-08 0 1.7e-07 0 1.701e-07 1.8 3.2e-07 1.8 3.201e-07 0 4.7e-07 0 4.701e-07 1.8 6.2e-07 1.8 6.201e-07 0 7.7e-07 0 7.701e-07 1.8 9.2e-07 1.8 9.201e-07 0 1.07e-06 0 1.0701e-06 0 1.22e-06 0 1.2201e-06 1.8 1.37e-06 1.8 1.3701e-06 0 1.52e-06 0 1.5201e-06 0 1.67e-06 0 1.6701e-06 1.8 1.82e-06 1.8 1.8201e-06 1.8 1.97e-06 1.8 1.9701e-06 1.8 2.12e-06 1.8 2.1201e-06 1.8 2.27e-06 1.8 2.2701e-06 0 2.42e-06 0 2.4201e-06 1.8 2.57e-06 1.8 2.5701e-06 1.8 2.72e-06 1.8 2.7201e-06 0 2.87e-06 0 2.8701e-06 1.8 3.02e-06 1.8 3.0201e-06 0 3.17e-06 0 3.1701e-06 1.8 3.32e-06 1.8 3.3201e-06 0 3.47e-06 0 3.4701e-06 1.8 3.62e-06 1.8 3.6201e-06 0 3.77e-06 0 3.7701e-06 0 3.92e-06 0 3.9201e-06 1.8 4.07e-06 1.8 4.0701e-06 0 4.22e-06 0 4.2201e-06 0 4.37e-06 0 4.3701e-06 1.8 4.52e-06 1.8 4.5201e-06 1.8 4.67e-06 1.8 4.6701e-06 1.8 4.82e-06 1.8 4.8201e-06 1.8 4.97e-06 1.8 4.9701e-06 0 5.12e-06 0 5.1201e-06 1.8 5.27e-06 1.8 5.2701e-06 1.8 5.42e-06 1.8)
X5hn bit5 b5 ref 0 sky130_fd_pr__nfet_01v8 w=32 l=0.15
X5hp bit5 b5bar ref vdd sky130_fd_pr__pfet_01v8 w=64 l=0.15
X5ln bit5 b5bar 0 0 sky130_fd_pr__nfet_01v8 w=32 l=0.15
X5lp bit5 b5 0 vdd sky130_fd_pr__pfet_01v8 w=64 l=0.15
Rbranch5 n5 bit5 20000
Rseries5 n5 n6 10000
VB6 b6 0 PWL(0 0 2e-08 0 2.01e-08 1.8 1.7e-07 1.8 1.701e-07 1.8 3.2e-07 1.8 3.201e-07 0 4.7e-07 0 4.701e-07 1.8 6.2e-07 1.8 6.201e-07 0 7.7e-07 0 7.701e-07 1.8 9.2e-07 1.8 9.201e-07 0 1.07e-06 0 1.0701e-06 0 1.22e-06 0 1.2201e-06 0 1.37e-06 0 1.3701e-06 0 1.52e-06 0 1.5201e-06 1.8 1.67e-06 1.8 1.6701e-06 1.8 1.82e-06 1.8 1.8201e-06 1.8 1.97e-06 1.8 1.9701e-06 0 2.12e-06 0 2.1201e-06 0 2.27e-06 0 2.2701e-06 1.8 2.42e-06 1.8 2.4201e-06 1.8 2.57e-06 1.8 2.5701e-06 0 2.72e-06 0 2.7201e-06 1.8 2.87e-06 1.8 2.8701e-06 1.8 3.02e-06 1.8 3.0201e-06 0 3.17e-06 0 3.1701e-06 1.8 3.32e-06 1.8 3.3201e-06 0 3.47e-06 0 3.4701e-06 1.8 3.62e-06 1.8 3.6201e-06 0 3.77e-06 0 3.7701e-06 0 3.92e-06 0 3.9201e-06 0 4.07e-06 0 4.0701e-06 0 4.22e-06 0 4.2201e-06 1.8 4.37e-06 1.8 4.3701e-06 1.8 4.52e-06 1.8 4.5201e-06 1.8 4.67e-06 1.8 4.6701e-06 0 4.82e-06 0 4.8201e-06 0 4.97e-06 0 4.9701e-06 1.8 5.12e-06 1.8 5.1201e-06 1.8 5.27e-06 1.8 5.2701e-06 0 5.42e-06 0)
VB6bar b6bar 0 PWL(0 1.8 2e-08 1.8 2.01e-08 0 1.7e-07 0 1.701e-07 0 3.2e-07 0 3.201e-07 1.8 4.7e-07 1.8 4.701e-07 0 6.2e-07 0 6.201e-07 1.8 7.7e-07 1.8 7.701e-07 0 9.2e-07 0 9.201e-07 1.8 1.07e-06 1.8 1.0701e-06 1.8 1.22e-06 1.8 1.2201e-06 1.8 1.37e-06 1.8 1.3701e-06 1.8 1.52e-06 1.8 1.5201e-06 0 1.67e-06 0 1.6701e-06 0 1.82e-06 0 1.8201e-06 0 1.97e-06 0 1.9701e-06 1.8 2.12e-06 1.8 2.1201e-06 1.8 2.27e-06 1.8 2.2701e-06 0 2.42e-06 0 2.4201e-06 0 2.57e-06 0 2.5701e-06 1.8 2.72e-06 1.8 2.7201e-06 0 2.87e-06 0 2.8701e-06 0 3.02e-06 0 3.0201e-06 1.8 3.17e-06 1.8 3.1701e-06 0 3.32e-06 0 3.3201e-06 1.8 3.47e-06 1.8 3.4701e-06 0 3.62e-06 0 3.6201e-06 1.8 3.77e-06 1.8 3.7701e-06 1.8 3.92e-06 1.8 3.9201e-06 1.8 4.07e-06 1.8 4.0701e-06 1.8 4.22e-06 1.8 4.2201e-06 0 4.37e-06 0 4.3701e-06 0 4.52e-06 0 4.5201e-06 0 4.67e-06 0 4.6701e-06 1.8 4.82e-06 1.8 4.8201e-06 1.8 4.97e-06 1.8 4.9701e-06 0 5.12e-06 0 5.1201e-06 0 5.27e-06 0 5.2701e-06 1.8 5.42e-06 1.8)
X6hn bit6 b6 ref 0 sky130_fd_pr__nfet_01v8 w=32 l=0.15
X6hp bit6 b6bar ref vdd sky130_fd_pr__pfet_01v8 w=64 l=0.15
X6ln bit6 b6bar 0 0 sky130_fd_pr__nfet_01v8 w=32 l=0.15
X6lp bit6 b6 0 vdd sky130_fd_pr__pfet_01v8 w=64 l=0.15
Rbranch6 n6 bit6 20000
Rseries6 n6 n7 10000
VB7 b7 0 PWL(0 0 2e-08 0 2.01e-08 1.8 1.7e-07 1.8 1.701e-07 0 3.2e-07 0 3.201e-07 0 4.7e-07 0 4.701e-07 0 6.2e-07 0 6.201e-07 0 7.7e-07 0 7.701e-07 1.8 9.2e-07 1.8 9.201e-07 0 1.07e-06 0 1.0701e-06 1.8 1.22e-06 1.8 1.2201e-06 1.8 1.37e-06 1.8 1.3701e-06 0 1.52e-06 0 1.5201e-06 1.8 1.67e-06 1.8 1.6701e-06 1.8 1.82e-06 1.8 1.8201e-06 1.8 1.97e-06 1.8 1.9701e-06 0 2.12e-06 0 2.1201e-06 1.8 2.27e-06 1.8 2.2701e-06 1.8 2.42e-06 1.8 2.4201e-06 0 2.57e-06 0 2.5701e-06 0 2.72e-06 0 2.7201e-06 1.8 2.87e-06 1.8 2.8701e-06 0 3.02e-06 0 3.0201e-06 0 3.17e-06 0 3.1701e-06 0 3.32e-06 0 3.3201e-06 0 3.47e-06 0 3.4701e-06 1.8 3.62e-06 1.8 3.6201e-06 0 3.77e-06 0 3.7701e-06 1.8 3.92e-06 1.8 3.9201e-06 1.8 4.07e-06 1.8 4.0701e-06 0 4.22e-06 0 4.2201e-06 1.8 4.37e-06 1.8 4.3701e-06 1.8 4.52e-06 1.8 4.5201e-06 1.8 4.67e-06 1.8 4.6701e-06 0 4.82e-06 0 4.8201e-06 1.8 4.97e-06 1.8 4.9701e-06 1.8 5.12e-06 1.8 5.1201e-06 0 5.27e-06 0 5.2701e-06 0 5.42e-06 0)
VB7bar b7bar 0 PWL(0 1.8 2e-08 1.8 2.01e-08 0 1.7e-07 0 1.701e-07 1.8 3.2e-07 1.8 3.201e-07 1.8 4.7e-07 1.8 4.701e-07 1.8 6.2e-07 1.8 6.201e-07 1.8 7.7e-07 1.8 7.701e-07 0 9.2e-07 0 9.201e-07 1.8 1.07e-06 1.8 1.0701e-06 0 1.22e-06 0 1.2201e-06 0 1.37e-06 0 1.3701e-06 1.8 1.52e-06 1.8 1.5201e-06 0 1.67e-06 0 1.6701e-06 0 1.82e-06 0 1.8201e-06 0 1.97e-06 0 1.9701e-06 1.8 2.12e-06 1.8 2.1201e-06 0 2.27e-06 0 2.2701e-06 0 2.42e-06 0 2.4201e-06 1.8 2.57e-06 1.8 2.5701e-06 1.8 2.72e-06 1.8 2.7201e-06 0 2.87e-06 0 2.8701e-06 1.8 3.02e-06 1.8 3.0201e-06 1.8 3.17e-06 1.8 3.1701e-06 1.8 3.32e-06 1.8 3.3201e-06 1.8 3.47e-06 1.8 3.4701e-06 0 3.62e-06 0 3.6201e-06 1.8 3.77e-06 1.8 3.7701e-06 0 3.92e-06 0 3.9201e-06 0 4.07e-06 0 4.0701e-06 1.8 4.22e-06 1.8 4.2201e-06 0 4.37e-06 0 4.3701e-06 0 4.52e-06 0 4.5201e-06 0 4.67e-06 0 4.6701e-06 1.8 4.82e-06 1.8 4.8201e-06 0 4.97e-06 0 4.9701e-06 0 5.12e-06 0 5.1201e-06 1.8 5.27e-06 1.8 5.2701e-06 1.8 5.42e-06 1.8)
X7hn bit7 b7 ref 0 sky130_fd_pr__nfet_01v8 w=32 l=0.15
X7hp bit7 b7bar ref vdd sky130_fd_pr__pfet_01v8 w=64 l=0.15
X7ln bit7 b7bar 0 0 sky130_fd_pr__nfet_01v8 w=32 l=0.15
X7lp bit7 b7 0 vdd sky130_fd_pr__pfet_01v8 w=64 l=0.15
Rbranch7 n7 bit7 20000
Rterminate n7 0 20000
Rload n0 0 1e+12
Cload n0 0 1e-12
.options reltol=1e-5 abstol=1e-14 vntol=1e-9
.tran 5e-11 5.42e-06 0 5e-11
.control
set numdgt=15
set wr_singlescale
set wr_vecnames
run
wrdata waveform.txt v(n0)
quit
.endc
.end
